US05229382
2. Methyl 2-(2-nitroanilino)-5-methylthiophene-3-carboxylate
To a stirred suspension of sodium hydride (2 g) in dry tetrahydrofuran (25 mL) under a nitrogen atmosphere was added a solution of methyl 2-amino-5-methylthiophene-3-carboxylate (4.8 g, 0.028 mol) and 2-fluoronitrobenzene (4.0 g, 0.025 mol) in dry tetrahydrofuran (30 mL). The mixture was stirred at 25° C. for 20 hours, poured onto ice and partitioned between 2N hydrochloric acid and ethyl acetate. The organic extracts were dried over magnesium sulphate, the solvent was evaporated under reduced pressure and the title compound purified by chromatography on silica gel, eluted with toluene, and crystallised from ethanol (4.1 g).

reactant | sodium hydride | 2 g | [H-].[Na+]
reactant | methyl 2-amino-5-methylthiophene-3-carboxylate | 0.028 mol, 4.8 g | NC=1SC(=CC1C(=O)OC)C | C7H9NO2S
reactant | 2-fluoronitrobenzene | 0.025 mol, 4.0 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Methyl 2-(2-nitroanilino)-5-methylthiophene-3-carboxylate | [N+](=O)([O-])C1=C(NC=2SC(=CC2C(=O)OC)C)C=CC=C1 | C13H12N2O4S
